US04794155
(a) 4-Methoxy-4'-phenoxybenzophenone
Diphenyl oxide (52.2 g), 100 ml of dichloromethane, and 42.8 g of aluminum trichloride are added to a flask equipped with a mechanical stirrer, an addition funnel and a reflux condenser with a drying tube. 4-Methoxybenzoyl chloride (anisoyl chloride, 50 g) is added over 30 minutes. The mixture is stirred at ambient temperature for 2 days and then poured into 200 ml of 4M HCl. The organic layer is washed with 1M NaCl, dried with MgSO4, and evaporated. After bulb-to-bulb distillation at 215° C. using 0.3 mm Hg pressure, product is recrystallized from dry ethanol to give 69.1 g (78 percent yield) of the title compound, with a melting point of 118° C.-119° C.

reactant | Diphenyl oxide | 52.2 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | aluminum trichloride | 42.8 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 4-Methoxybenzoyl chloride | 50 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | HCl | 4M, 200 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Methoxy-4'-phenoxybenzophenone | 69.1 g, 78 percent yield | COC1=CC=C(C(=O)C2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C20H16O3
